US07265149B2
In analogy to the procedure described for example 1 f], {6-[5-(4-fluoro-3-trifluoromethyl-phenyl)-2-methyl-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester was treated with LiOH to obtain {6-[5-(4-fluoro-3-trifluoromethyl-phenyl)-2-methyl-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid as brown solid.

reactant | {6-[5-(4-fluoro-3-trifluoromethyl-phenyl)-2-methyl-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)OCC=1N(N=C(C1)C1=CC(=C(C=C1)F)C(F)(F)F)C)=O | C24H21F4N3O3
reactant | LiOH | [Li+].[OH-]
product | {6-[5-(4-fluoro-3-trifluoromethyl-phenyl)-2-methyl-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid | FC1=C(C=C(C=C1)C=1C=C(N(N1)C)COC1=CC=C2C=CN(C2=C1)CC(=O)O)C(F)(F)F | C22H17F4N3O3
